Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Jaundice and confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with PMH notable for ETOH cirrhosis 
c/b ascites/SBP/HE/?HRS (Child C), RXYGB c/b anastomotic 
stricture s/p multiple endoscopic dilations, recent discharged 
after complicated hospitalization for gastro-jejunal anastamotic 
perforation in setting of endoscopic GJ stricture dilation 
requiring urgent ex-lap, GJ take-down, and G-G anastomosis, 
presenting to ED with worsening jaundice and confusion.

Please refer to prior discharge summaries for detailed hospital 
course, but in brief, Ms. ___ was hospitalized between ___ 
and ___ during which time she underwent EGD with balloon 
dilation of known prior EJ anastamotic strictures c/b visceral 
perforation. She was urgently taken to the OR, where she had 
ex-lap, GJ takedown, and creation of new G-G. Her hospital 
course was further complicated by severe ileus requiring 
extensive decompression via NG tube while she was fed via 
percutaneous J-tube. She had multiple ICU stays, 
post-operatively as well as in the setting of possible infection 
vs. seizure. She was treated for secondary bacterial peritonitis 
as well as for lactobacillus bacteremia during this 
hospitalization as well. She was finally discharged after being 
advanced to combination of regular diet and tubefeeds.

She again presented to ___ between ___ and ___ for 
acute on chronic anemia. She underwent EGD showing friable 
gastric mucosa without any evidence of bleed. She was transfused 
supportively and her anemia was felt to be due to blunted marrow 
response in setting of malnutrition. Her course was complicated 
by severe nausea and vomiting ___ ileus (seen again on cross 
sectional imaging). She was initially decompressed with NG tube 
with good effect. After discussion between primary hepatology 
and transplant surgery team, she went for ___ venting 
G-tube placement on ___ in order to allow for decompression 
of her small G-G anastamotic pouch at home. Her nutrition was 
also optimized with assistance from transplant dietician and she 
was discharged home with instructions to follow-up closely as an 
outpatient.

Regarding this admission, according to the ED notes, her partner 
who accompanied her stated that she had worsening confusion and 
somnolence over the past 24 hours. She was reportedly having 
nonspecific pain all over but denying focal pain. One episode of 
emesis on the day of admission, normal BMs. No fevers. No falls 
or trauma.

In the ED, initial vitals were:
- 99.3 118 118/68 22 100% RA
Exam was notable for:
- confused and refusal to cooperate with exam
- +scleral icterus and jaundiced appearance
- moist mucus membranes
- diffuse TTP of abdomen and anywhere else on her body
- 2+ calf edema
- POCUS: trace ascites, no pocket

Labs were notable for:
- Na 132, Cr 0.5
- WBC 12.8 with 90.5% PMNs, Hgb 9.6 (discharge hgb 7.8), Plts 
123
- Normal AST/ALT, Tbili 4.8 (discharge Tbili 4), Albumin 2.6
- PTT 39.6, INR 2.3 (discharge INR 2.0)
- Blood cultures x2 (pending)
- serum/urine tox negative
- lactate 3.2
- UA (straight cath sample): 4 WBCs, sm ___, few bacteria, 0 epi

Imaging was notable for:
- CXR showing low lung volumes, mild cardiomegaly, and 
persistent loculated moderate sized left pleural effusion.  
Presumed underlying atelectasis noting that infection would be 
possible. 

Patient was given:
- 1L NS, Haldol 2.5 mg IV, ceftriaxone 2g

Decision was made to admit to ET for progressive confusion.

Vitals prior to transfer: 99.4 101 108/60 18 99% RA 
 
Upon arrival to the floor, unable to obtain history due to 
patient's confusion. No family present with patient and unable 
to reach by telephone. 

Unable to obtain ROS due to patient's mental status. 
  

 
Past Medical History:
- Obesity
- s/p gastric bypass c/b stricture of the gastrojejunal 
anastomosis and internal hernia causing SBO s/p multiple 
endoscopic dilations c/b perforation (as detailed below)
- SBO as above
- Exploratory laparotomy, takedown old gastrojejunostomy, 
gastrogastrostomy, feeding jejunostomy (___ ___ for 
perforated gastrojejunal anastomosis site with reopening of 
recent laparotomy and closure of gastrostomy (___ ___
- Placement of venting G-tube in addition to feeding J-tube 
(___)
- ETOH cirrhosis complicated by ascites, HE, SBP  
- Epileptiform discharges concerning for possible seizure in 
setting of altered mental status, started on keppra ___
- numerous hospitalizations for abdominal pain, requiring 
paracenteses
- depression/anxiety
- GERD
- hx of Cdiff
- IBS  
- thrombocytopenia  
- left ankle fusion    
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia
- Right breast lesions s/p U/S guided core biopsy on ___ - 
pathology showing fibroadipose tissue with blood, fibrin, and 
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications

 
Social History:
___
Family History:
- father w/ diabetes
- maternal grandfather has unknown cancer 
- She has no family history of liver disease, hemochromatosis, 
autoimmune diseases, or non-smoker emphysema
 
Physical Exam:
ADMISSION EXAM:
VS: 98.8 109/67 107 24 97 RA 
GENERAL: alert, confused-appearing
HEENT: sclerae icteric, conjunctivae noninjected, MMM
HEART: tachycardic, regular, no m/r/g 
LUNGS: clear to auscultation anteriorly, patient refused to 
participate with posterior examination
ABDOMEN: distended, soft, patient resistant to examination of 
abdomen but no more resistant than to examination of any other 
body part, no guarding or rigidity; J tube and venting G tube 
without surrounding erythema or purulence, G tube flushes 
appropriately
EXTREMITIES: 2+ pitting edema, warm
NEUROLOGIC: Awake and alert, eyes track, answers all questions 
by saying "what!" otherwise not cooperative with exame
ACCESS: PIV

DISCHARGE EXAM:
VS: T 98.2 BP 107/65 HR 107 RR 18 O2 94% on RA
GENERAL: Alert and oriented x3.  Tired appearing Caucasian 
female, mildly jaundiced.  Asleep on my entry but rouses to 
light voice.
HEENT: Sclerae icteric.
HEART: Tachycardic with regular rhythm, normal S1/S2.  
Holosystolic murmur best auscultated in the LUSB.  No 
gallops/rubs.  
LUNGS: Crackles from the midfields down bilaterally.
ABDOMEN:  Normoactive bowel sounds.  Abdomen is soft, distended, 
and nontender to palpation.  No guarding or rigidity. Feeding J 
tube in place. Mild erythematous rash around the venting G tube 
site, with one safe-T button still in place. Mild amount of 
moisture around G tube site but no frank leakage.  Still with 
mild erythematous rash around the G-tube site.
EXTREMITIES: Trace pitting edema to knees bilaterally, warm and 
well perfused, +2 dorsalis pedis pulses bilaterally.
NEUROLOGIC: A&O x3.  No asterixis.

 
Pertinent Results:
ADMISSION LABS:
___ 05:29PM URINE  HOURS-RANDOM
___ 05:29PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:29PM URINE  COLOR-DKMB APPEAR-Hazy SP ___
___ 05:29PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-SM  UROBILNGN-4* PH-6.0 LEUK-SM 

___ 05:29PM URINE  RBC-5* WBC-4 BACTERIA-FEW YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 05:29PM URINE  HYALINE-6*
___ 05:29PM URINE  MUCOUS-RARE
___ 03:05PM   LACTATE-3.2*
___ 01:10PM   GLUCOSE-116* UREA N-10 CREAT-0.5 SODIUM-132* 
POTASSIUM-3.7 CHLORIDE-98 TOTAL CO2-22 ANION GAP-16
___ 01:10PM   estGFR-Using this
___ 01:10PM   ALT(SGPT)-13 AST(SGOT)-32 ALK PHOS-96 TOT 
BILI-4.8*
___ 01:10PM   LIPASE-36
___ 01:10PM   ALBUMIN-2.6*
___ 01:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:10PM   WBC-12.8*# RBC-2.86* HGB-9.6* HCT-28.7* 
MCV-100* MCH-33.6* MCHC-33.4 RDW-23.7* RDWSD-82.8*
___ 01:10PM   NEUTS-90.5* LYMPHS-3.9* MONOS-5.1 EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-11.63*# AbsLymp-0.50* AbsMono-0.65 
AbsEos-0.00* AbsBaso-0.01
___ 01:10PM   PLT COUNT-123*
___ 01:10PM   ___ PTT-39.6* ___

PERTINENT IMAGING:
PORTABLE ABDOMEN XR (___):
No abnormally dilated loops of small or large bowel. Portable 
supine 
radiographs are limited for evaluation of free air, if there is 
ongoing clinical concern, consider left lateral decubitus, or 
upright radiographs or cross-sectional imaging. 

J-TUBE STUDY (___):
Appropriately positioned jejunostomy tube.  No signs of leak or 
obstruction.

EEG (___):
This is an abnormal continuous ICU monitoring study because of
(1) frequent generalized epileptiform discharges, which rarely 
occur in very
brief periodic runs at up to 3 Hz and lasts for 1 second at a 
time, indicative
of diffusely increased cortical irritability. These discharges 
become
significantly less frequent after midnight, likely corresponding 
to
administration of levetiracetam; (2) a slow and disorganized 
background with
abundant generalized broad-based sharp waves with triphasic 
morphology and A-P
phase lag, indicative of a moderate encephalopathy, which is 
nonspecific as to
etiology, but most likely toxic-metabolic in nature. The 
background also
gradually improves over the course of the recording. There are 
no pushbutton
activations. There are no electrographic seizures.

PA and LATERAL CXR (___):
Moderate left pleural effusion has increased, including a 
fissural component. 
  
Consolidation superior to the right major fissure that developed 
on ___, probably upper lobe pneumonia, particularly due to 
aspiration.  Heart size is normal.  There is no pulmonary edema, 
right pleural effusion, or evidence of pneumothorax. 

ABDOMEN SUPINE AND ERECT (___):
Nonspecific, nonobstructive bowel gas pattern however there are 
a few 
scattered air-fluid levels noted within the left upper abdomen. 

PERTINENT MICROBIOLOGY:
___ 5:29 pm URINE      SOURCE CATHETER. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PROBABLE ENTEROCOCCUS.    ___ CFU/mL. 
      STAPHYLOCOCCUS SPECIES.    ~1000 CFU/mL. 

___ 10:40 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

DISCHARGE LABS:
___ 04:21AM BLOOD WBC-8.2 RBC-2.24* Hgb-7.6* Hct-22.5* 
MCV-100* MCH-33.9* MCHC-33.8 RDW-24.6* RDWSD-88.1* Plt Ct-93*
___ 04:21AM BLOOD ___ PTT-57.9* ___
___ 04:21AM BLOOD Glucose-112* UreaN-9 Creat-0.4 Na-127* 
K-3.7 Cl-93* HCO3-21* AnGap-17
___ 04:21AM BLOOD ALT-9 AST-23 AlkPhos-77 TotBili-3.8*
___ 04:21AM BLOOD Albumin-3.0* Calcium-7.9* Phos-2.7 Mg-1.___ with PMHx EtOH cirrhosis (Child's C, complicated by hepatic 
encephalopathy, ascites, SBP, and HRS), complex surgical anatomy 
(RxYGB c/b recurrent anastamotic strictures requiring multiple 
endoscopic dilations, recently complicated by anastamotic 
perforation requiring ex-lap, GJ take-down, and creation of new 
G-G), and recent placement of venting G-tube due to persistent 
nausea and vomiting who was brought to the Emergency Department 
due to altered mental status. 

Found to not be draining G-tube properly and had not taken some 
of her home doses of lactulose; in addition her home 
levetiracetam had been held after her last discharge to promote 
improved gastric motility. Pt was started back on her 
levetiracetam, had her G tube properly drained, and was 
administered lactulose - to improvement of her mental status. 
She was educated on how to vent her G-tube continuously to 
promote gastric decompression and improve her nausea/vomiting. 
She had a mild aspiration pneumonitis after an episode of 
vomiting, with one fever, covered with 48hrs of ceftazidime and 
metronidazole. Pt had a mild acute-on-chronic episode of anemia 
(thought to be combination of nutritional on top of friable 
gastric/anastomotic mucosa in setting of complex surgical 
anatomy), requiring 1uPRBC; she did not have other evidence of 
active blood loss. 

She was discharged on a pureed diet with instructions to take 
small meals. Dronabinol was added for symptomatic management of 
her nausea, to some improvement of her nausea/vomiting. 

For volume management, her furosemide was increased and 
spironolactone was started. 

DETAILED HOSPITAL COURSE
ACTIVE ISSUES:
# ENCEPHALOPATHY: 
With a combination of repetitive movements and 
nonresponsiveness, concerning for hepatic encephalopathy vs. 
seizures. EEG demonstrated similar epileptiform discharges at 
high risk for seizure, but no frank seizure activity. 
Encephalopathy thought to be d/t these waveforms in the setting 
of discontinuing levetiracetam at previous hospital stay and not 
being able to drain her G-tube independently at home, as well as 
forgetting to take doses of lactulose causing confusion. Pt's 
mental status cleared with HE treatment (lactulose, rifaximin), 
resumption of levetiracetam, and draining of G-tube. Pt A&O x3 
at discharge.

# S/P VENTING G-TUBE PLACEMENT
# NAUSEA AND VOMITING:
Pt and boyfriend educated on her G-tube drainage, given that she 
had come in with inability to drain her tube at home. Still has 
intermittent N/V regardless of G-tube drainage. Pt's 
nausea/vomiting was improved with a combination of scheduled 
G-tube flushes to avoid clogging, giving small pureed meals, and 
keeping the G-tube venting continuously. Dronabinol also added 
to medication regimen to improve nausea. Lactulose was decreased 
d/t persistent nausea and cramping.

# FEVER: 
Likely due to an episode of aspiration pneumonitis in the 
setting of frequent vomiting. Pt afebrile after 48hrs on 
ceftazidime/metronidazole, and without a white count or 
respiratory symptoms; antibiotics discontinued after this time.

# ACUTE-ON-CHRONIC ANEMIA: 
Previous EGD in ___ without any sources of active bleed, 
though Pt noted to have friable mucosa at anastomotic sites. 
Likely due to some amount of oozing from her gastropathy on top 
of poor nutritional baseline. She was given 1uPRBC during this 
hospital stay. Maintained on pantoprazole in-house, transitioned 
to esomeprazole liquid at discharge.

# HYPONATREMIA with
# HYPERVOLEMIA: 
Likely due to poor PO intake + hypervolemia given significant 
lower extremity edema. Symptomatically improved leg swelling 
after active diuresis with IV furosemide, but with downtrending 
sodium. Sodium was improved after 50g albumin and improved PO 
intake.

CHRONIC/STABLE ISSUES:
# ETOH cirrhosis: 
Child C with MELD on admission 25 from 21 at recent discharge, 
now sober since ___ with complications of cirrhosis 
including ascites, HE, SBP, and possible signs of portal 
gastropathy. Her encephalopathy presently improved, with no 
asterixis. Had minimal ascites with overall fluid overload on 
now-increased diuretic regimen.
- spironolactone 25mg PO daily, furosemide 40mg PO daily
- Bactrim daily for SBP PPx.
- Midodrine 5mg TID, can consider downtitrating as outpatient

# H/O perforated anastamotic stricture I/s/o RxY requiring 
recent ex-lap with GG re-anastomatosis: With recent extensive 
hospital course with significant ileus, treated supportively. 
She is ___ months removed from surgery and overall doing well from 
an operative standpoint. She also had venting G-tube placed 4 
days prior to the current admission, which has been source of 
intermittent problems w/r/t venting.
- Regular diet as tolerated, encouraged Pt to start with small 
amounts of pureed food.
- Continued tube feeds through J tube
- Zofran PRN nausea, dronabinol added to regimen
- Lactulose as above
- management of G-tube as above

# H/O ETOH Abuse: Serum EtOH negative on admission
- continued MVI, thiamine, folate

# Depression/Anxiety: continued home escitalopram

# H/O epileptiform discharges: 
- continued home levetiracetam

# Insomnia: 
- hold mirtazepine in the setting of AMS

TRANSITIONAL ISSUES:
# CODE: Full Code
# CONTACT: ___ (Mother), ___ (Father)
-- Phone number: ___ 
-- Cell phone: ___ 

[ ] MEDICATION CHANGES:
- Added: Dronabinol 5mg PO BID, levetiracetam oral solution 
1000mg PO Q12H, rifaximin 550mg PO BID, spironolactone 25mg PO 
daily, esomeprazole liquid 40mg PO daily
- Stopped: Pantoprazole (replaced with esomeprazole) 
- Increased: Furosemide (20mg -> 40mg daily)
- Decreased: Lactulose (30mL PO q6h -> 30mL PO TID)
- Held: Mirtazapine (given altered mental status; can consider 
restarting on outpatient basis)
- Consider downtitrating midodrine (now on 5mg PO TID) as an 
outpatient.
- Consider uptitrating spironolactone (now on 25mg PO daily) as 
an outpatient.

[ ] FOLLOW-UP LABS:
- Pt should have repeat CBC, chem10, LFT's, and coags drawn on 
___. Please fax results to the ___ 
___, attn: ___ MD) and Pt's PCP 
___, ___ NP). 

[ ] NUTRITIONAL CHANGES:
- Continue tube feeds at previous goals.
- Zinc and copper supplementation as previously.
- Should go home on pureed diet.

[ ] VENTING G-TUBE MANAGEMENT:
- Pt should flush her G-tube at least 4x per day to ensure it 
doesn't clog.
- Pt should maintain her G-tube to continuous venting, to 
promote some amount of gastric decompression.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. Lactulose 30 mL PO Q6H 
3. Midodrine 5 mg PO TID 
4. Mirtazapine 15 mg PO QHS:PRN insomnia 
5. Multivitamins 1 TAB PO DAILY 
6. Pantoprazole 40 mg PO Q12H 
7. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
8. Zinc Sulfate 220 mg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Thiamine 100 mg PO DAILY 
11. copper gluconate 4 mg oral DAILY 
12. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1.  copper gluconate 4 mg oral DAILY  
2.  Dronabinol 5 mg PO BID 
RX *dronabinol 5 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  Esomeprazole 40 mg Other DAILY 
RX *esomeprazole magnesium [Nexium Packet] 40 mg 1 packet by 
mouth Daily Disp #*30 Packet Refills:*0 
4.  LevETIRAcetam Oral Solution 1000 mg PO Q12H 
RX *levetiracetam 100 mg/mL 10 mL by mouth every twelve (12) 
hours Refills:*0 
5.  Miconazole Powder 2% 1 Appl TP QID:PRN rash 
RX *miconazole nitrate [Anti-Fungal] 2 % 1 application QID:PRN 
Refills:*0 
6.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
7.  Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
8.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
9.  Lactulose 30 mL PO TID 
RX *lactulose 10 gram/15 mL 30 mL by mouth three times a day 
Refills:*0 
10.  Midodrine 5 mg PO TID  
11.  Escitalopram Oxalate 20 mg PO DAILY  
12.  FoLIC Acid 1 mg PO DAILY  
13.  Multivitamins 1 TAB PO DAILY  
14.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY  
15.  Thiamine 100 mg PO DAILY  
16.  Zinc Sulfate 220 mg PO DAILY  
17. HELD- Mirtazapine 15 mg PO QHS:PRN insomnia  This medication 
was held. Do not restart Mirtazapine until you speak with your 
primary care physician.
18.Outpatient Lab Work
ICD-10 K74.60:  Cirrhosis
Please collect CBC, chem10, LFT's, and coags drawn on ___.  
Please fax results to the ___ ___, 
attn: ___ MD) and Pt's PCP ___, ___ 
NP). 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Toxic metabolic encephalopathy
Hepatic encephalopathy
History of epileptiform discharges on electroencephalogram
Nausea and vomiting due to delayed gastrointestinal motility, 
status post venting G-tube placement

SECONDARY DIAGNOSES:
Acute-on-chronic anemia
Aspiration pneumonitis
Hypervolemic hyponatremia
Nutritional coagulopathy
Alcohol cirrhosis
Insomnia
History of perforated anastomotic stricture in the setting of 
Roux-en-Y gastric bypass, requiring exploratory laparotomy with 
gastro-gastrostomy reanastomosis
Depression
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHAT BROUGHT YOU INTO THE HOSPITAL?
- You came to the hospital because of confusion.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- We drained your G-tube and gave you lactulose, which improved 
your confusion.
- We confirmed that your G-tube was in place and functioning 
well.
- You had a small amount of blood loss, likely from irritation 
of your stomach lining.  We gave you a blood transfusion to 
replace this.
- We removed some fluid from your legs by giving you a medicine 
through the IV ("Lasix").
- We gave you a new medicine ("dronabinol") to help with your 
nausea.
- We adjusted your diet to include pureed foods, which you 
seemed to hold down better.

WHAT SHOULD I DO WHEN I AM AT HOME?
- We recommend changing your diet to:  ___ small meals daily 
with ground-up food.  Try to avoid lots of dairy, as this seems 
to worsen your nausea and vomiting.
- We recommend flushing your G-tube at least 4 times per day to 
ensure it doesn't clog.
- We increased your home dose of furosemide (from 20mg daily to 
40mg daily), and decreased your lactulose (from 30mL every 6 
hours to 30mL three times per day).
- We started you on three new medicines:  dronabinol (for 
nausea, 5mg twice a day), spironolactone (to prevent fluid from 
reaccumulating in your legs, 25mg daily), and esomeprazole (40mg 
daily as a liquid).
- Please follow up with your liver team (Dr. ___, as well as 
your primary care doctor, as scheduled below.

We wish you the best,
Your ___ Care Team

 
Followup Instructions:
___